US07667041B2
Synthesis of 2-amino-2-(3,4,5-trifluorophenyl)ethanol
To a THF suspension (10 mL) of LAH (641 mg), THF suspension (15 mL) of amino-(3,4,5-trifluorophenyl)acetic acid hydrochloric acid salt (933 mg) was added dropwise under cooling with ice. The reaction mixture was warmed to room temperature, and then agitated at room temperature for 7 hours. The reaction solution was once again cooled with ice, and methanol (4 mL) and water (2 mL) were consecutively added to the reaction solution. The insoluble matter formed in the reaction solution was filtered off by celite, and the insoluble matter was further washed with ether. The filtrate collected was dried over magnesium sulfate and the solvent was removed under reduced pressure to obtain 587 mg of the title compound. The physical properties of the compound are as follows.

reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | LAH | 641 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | amino-(3,4,5-trifluorophenyl)acetic acid hydrochloric acid salt | 933 mg | Cl.NC(C(=O)O)C1=CC(=C(C(=C1)F)F)F
reactant | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-amino-2-(3,4,5-trifluorophenyl)ethanol | 587 mg | NC(CO)C1=CC(=C(C(=C1)F)F)F | C8H8F3NO
